US08629157B2
Step 1: Synthesis of (S)-1-(tetrahydro-pyran-4-ylmethyl)-pyrrolidine-2-carboxylic acid
To a solution of L-proline (1 g; 8.686 mmol) in 1,2-dichloroethane (10 mL)/acetic acid (1.98 mL; 33.007 mmol)) is added tetrahydro-pyran-4-carbaldehyde (0.991 g; 8.686 mmol) and sodium sulfate (˜10 equivalents). After 45 minutes of agitation on an orbital shaker, MP-triacetoxyborohydride resin (4.272 g; 10.423 mmol) is added. The mixture is agitated at room temperature overnight and filtered, washing resin with methylene chloride. The combined filtrate is washed with aqueous saturated sodium bicarbonate solution and brine, dried (Na2SO4), filtered and concentrated in vacuo. Excess acetic acid is removed by successive azeotropic distillation with toluene on the rotary evaporator. Title compound is afforded by this method. ESI m/z 214 [M+H]+

reactant | L-proline | 8.686 mmol, 1 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | acetic acid | 33.007 mmol, 1.98 mL | C(C)(=O)O | C2H4O2
reactant | tetrahydro-pyran-4-carbaldehyde | 8.686 mmol, 0.991 g | O1CCC(CC1)C=O | C6H10O2
reactant | sodium sulfate | ˜10 equivalents | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | triacetoxyborohydride | 10.423 mmol, 4.272 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | (S)-1-(tetrahydro-pyran-4-ylmethyl)-pyrrolidine-2-carboxylic acid | O1CCC(CC1)CN1[C@@H](CCC1)C(=O)O | C11H19NO3
